US04968708
Subsequently, 4.3 g of 2-ethylimidazo[2,1-b]-benzothiazole was added to a solution prepared from 11 g of phosphorus oxychloride and 20 ml of dimethylformamide followed by heating at 50° C. for 2.5 hours. The reaction mixture was poured onto ice water. After neutralizing with ammonium hydroxide, the precipitated crystals were filtered to give 3.88 g of 3-formyl-2-ethylimidazo[2,1-b]benzothiazole.

reactant | 2-ethylimidazo[2,1-b]-benzothiazole | 4.3 g | C(C)C=1N=C2SC3=C(N2C1)C=CC=C3 | C11H10N2S
reactant | phosphorus oxychloride | 11 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-formyl-2-ethylimidazo[2,1-b]benzothiazole | 3.88 g | C(=O)C1=C(N=C2SC3=C(N21)C=CC=C3)CC | C12H10N2OS
